US08633001B2
Production of Compound 4, diethyl 2-benzyloxycarbonylamino-2-(benzyloxycarbonylmethyl)malonate
A solution of diethyl 2-benzyloxycarbonylaminomalonate (30 g) in anhydrous DMF (100 mL) was added portionwise with sodium hydride (60%, 4.27 g) with ice cooling and stirring, then the mixture was stirred at room temperature for 30 minutes, and then added with benzyl 2-bromoacetate (28.9 g), and the mixture was stirred overnight. The reaction mixture was poured into diluted hydrochloric acid, the mixture was extracted with ethyl acetate, and the extract was washed with saturated brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was subjected to silica gel column chromatography, and then purification was performed with n-hexane/ethyl acetate (4:1), to obtain the title compound (43.9 g, yield: 99%) as colorless oil.

reactant | diethyl 2-benzyloxycarbonylaminomalonate | 30 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)OCC)C(=O)OCC | C15H19NO6
reactant | sodium hydride | 4.27 g | [H-].[Na+]
reactant | benzyl 2-bromoacetate | 28.9 g | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | diethyl 2-benzyloxycarbonylamino-2-(benzyloxycarbonylmethyl)malonate | 43.9 g, yield: 99% | C(C1=CC=CC=C1)OC(=O)NC(C(=O)OCC)(C(=O)OCC)CC(=O)OCC1=CC=CC=C1 | C24H27NO8
